US06498169B1
Synthesis of 4-(Methylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine
To a suspension of lithium aluminum hydride (100 mg) in dry THF (50 mL) was added a solution of 4-(ethoxycarbonylamino)-1-[[2-(3,4,5-trimethoxyphenyl) pyridin-4-yl]methyl]piperidine (566 mg) in dry THF (50 mL) under an argon atmosphere. The mixture was then refluxed overnight, then cooled down. Saturated aqueous ammonium chloride was added to the mixture and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was subjected to silica gel column chromatography using chloroform-ammonia saturated methanol (9:1) to give the title compound as yellow oil.

reactant | lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(ethoxycarbonylamino)-1-[[2-(3,4,5-trimethoxyphenyl) pyridin-4-yl]methyl]piperidine | 566 mg | C(C)OC(=O)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H31N3O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(Methylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | CNC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C21H29N3O3
